US04921887
To a stirred mixture of 2-amino-4-[4-(diphenylmethoxy)piperidinomethyl]thiazole (8.04 g) and pyridine (7.72 ml) in dry N,N-dimethylformamide (80 ml) was added slowly a solution of propionyl chloride (2.76 ml) in dichloromethane (2 ml) at a temperature below 5° C. After 30 minutes, the reaction mixture was poured into ice water (800 ml) and extracted with ethyl acetate (400 ml), and the extract was dried over magnesium sulfate. The solvent was distilled off and purified by column chromatography on silica gel to give 2-propionylamino-4-[4-(diphenylmethoxy)piperidinomethyl]thiazole (8.9 g).

reactant | 2-amino-4-[4-(diphenylmethoxy)piperidinomethyl]thiazole | 8.04 g | NC=1SC=C(N1)CN1CCC(CC1)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C22H25N3OS
reactant | pyridine | 7.72 ml | N1=CC=CC=C1 | C5H5N
reactant | propionyl chloride | 2.76 ml | C(CC)(=O)Cl | C3H5ClO
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 2-propionylamino-4-[4-(diphenylmethoxy)piperidinomethyl]thiazole | 8.9 g | C(CC)(=O)NC=1SC=C(N1)CN1CCC(CC1)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C25H29N3O2S
